US05686424
Using the procedure described previously, a solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (108 mg, 0.37 mmol, 1.0 eq), triethylamine (156 uL, 1.11 mmol, 3.0 eq), and THF (1.5 mL), was treated with isobutyl chloroformate (53 uL, 0.41 mL, 1.1 eq), then with L-leucine N-benzylamide (123 mg, 570 umol, 1.5 eq). Workup as before provided 124 mg (68%) of L-leucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.37 mmol, 108 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | triethylamine | 1.11 mmol, 156 uL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 53 uL, 1.1 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | L-leucine N-benzylamide | 570 umol, 123 mg, 1.5 eq | C(C1=CC=CC=C1)NC([C@@H](N)CC(C)C)=O | C13H20N2O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | L-leucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide | 124 mg, 68% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C([C@@H](N)CC(C)C)=O)CC3=CC=CC=C3)CCC2)=O | C30H43N3O3
